US06645971B1
Preparation of 1-(2-Carboxyethyl)-3-(1-benzylpiperidin-4-yl)-4-phenyl-3,4-dihydro-2(1H)-quinazolinone
To a solution of 78 mg (0.16 mmol) of 1-(2methoxycarbonylethyl)-3-(1-benzylpiperidin-4-yl)-4-phenyl-3,4-dihydro-2(1H)-quinazolinone in 1 ml of methanol, 0.5 ml of 1N aqueous sodium hydroxide solution was added and stirred at room temperature for 2.5 hours. After neutralization with 1N hydrochloric acid, the reaction mixture was concentrated under reduced pressure, extracted with ethyl acetate and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. Ether was added to the residue and precipitated crystals were collected to give the title compound as colorless powder.

reactant | 1-(2methoxycarbonylethyl)-3-(1-benzylpiperidin-4-yl)-4-phenyl-3,4-dihydro-2(1H)-quinazolinone | 0.16 mmol, 78 mg | COC(=O)CCN1C(N(C(C2=CC=CC=C12)C1=CC=CC=C1)C1CCN(CC1)CC1=CC=CC=C1)=O | C30H33N3O3
solvent | methanol | 1 ml | CO | CH4O
solvent | sodium hydroxide | 1N, 0.5 ml | [OH-].[Na+]
product | 1-(2-Carboxyethyl)-3-(1-benzylpiperidin-4-yl)-4-phenyl-3,4-dihydro-2(1H)-quinazolinone | C(=O)(O)CCN1C(N(C(C2=CC=CC=C12)C1=CC=CC=C1)C1CCN(CC1)CC1=CC=CC=C1)=O | C29H31N3O3
